US04086415
(c) 1-methyl-1-nitroso-3-(2,3,4-tri-O-acetyl-β-D-xylopyranosyl)urea
1-methyl-1-nitroso-3-(β-D-xylopyranosyl)urea (110 mg) was dissolved in a mixture of pyridine (1 ml) and acetic anhydride (1 ml) and the resulting mixture was allowed to stand at room temperature for effecting the acetylation. The reaction mixture was then concentrated under a reduced pressure to give a crystalline residue which was then crystallized from ethanol, yielding the titled compound (147 mg). Yield 87.0%. mp. 127°-127.5° C (with decomposition). [α]D20 -25.4° (c 0.7, chloroform).

reactant | 1-methyl-1-nitroso-3-(β-D-xylopyranosyl)urea | 110 mg | CN(C(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)CO1)N=O | C7H13N3O6
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-methyl-1-nitroso-3-(2,3,4-tri-O-acetyl-β-D-xylopyranosyl)urea | 147 mg, Yield 87.0% | CN(C(=O)N[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CO1)N=O | C13H19N3O9
